US07132539B2
Preparation of 2-{4-[2-amino-3-(4-chlorophenyl)-propionyl]-3-ethyl-piperazin-1-yl}-N-methyl-3-naphthalen-2-yl-propioamide HCl (45):
{1-(4-Chlorobenzyl)-2-[2-ethyl-4-(1-methylcarbamo yl-2-naphthalen-2-yl-ethyl)-piperazin-1-yl]-2-oxo-ethyl]-carbamic acid tert-butyl ester, 44, (1.0 g, 1.6 mmol) is dissolved in 4M HCl in dioxane (20 mL). The reaction mixture is stirred for 60 minutes then 1,2-dichloroethane (20 mL) is added. Solvent is removed in vacuo to afford 1 g (quantitative yield) of the desired product.

reactant | {1-(4-Chlorobenzyl)-2-[2-ethyl-4-(1-methylcarbamo yl-2-naphthalen-2-yl-ethyl)-piperazin-1-yl]-2-oxo-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(C(=O)N1C(CN(CC1)C(CC1=CC2=CC=CC=C2C=C1)C(NC)=O)CC)CC1=CC=C(C=C1)Cl)=O | C34H43ClN4O4
reactant | 1,2-dichloroethane | 20 mL | ClCCCl | C2H4Cl2
solvent | HCl | 4M | Cl | ClH
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 2-{4-[2-amino-3-(4-chlorophenyl)-propionyl]-3-ethyl-piperazin-1-yl}-N-methyl-3-naphthalen-2-yl-propioamide HCl | 1 g, quantitative yield | Cl.NC(C(=O)N1C(CN(CC1)C(C(=O)NC)CC1=CC2=CC=CC=C2C=C1)CC)CC1=CC=C(C=C1)Cl | InChI=1S/C29H35ClN4O2.ClH/c1-3-25-19-33(14-15-34(25)29(36)26(31)17-20-9-12-24(30)13-10-20)27(28(35)32-2)18-21-8-11-22-6-4-5-7-23(22)16-21;/h4-13,16,25-27H,3,14-15,17-19,31H2,1-2H3,(H,32,35);1H
